US08119627B2
A solution of 4-chlorophenol (1 g, 7.78 mmol), 2,5-difluoronitrobenzene (829 mg, 5.21 mmol) and potassium carbonate (1.29 g, 9.34 mmol) in DMF (5 ml) was stirred at reflux for 6 h. The reaction mixture was allowed to cool and then re-dissolved in 2.5M NaOH (10 ml). This aqueous mixture was then extracted with ethyl acetate (3×15 ml) and the combined organics were dried (MgSO4), filtered and concentrated in vacuo. An ethyl acetate solution of the crude material was filtered through a pad of silica which upon evaporation in vacuo afforded 2-(4-chlorophenoxy)-4-methyl-1-nitrobenzene as a yellow oil (1.04 g). This oil was then dissolved in 10:1 EtOH:H2O (10 ml) and added to a refluxing solution of iron powder (1.45 g, 26.05 mmol) and ammonium chloride (195 mg, 2.74 mmol) in 10:1 EtOH:H2O (20 ml). Stirring at this temperature continued for a further 2 h, before the reaction mixture was allowed to cool. The mixture was then filtered through a pad of celite, which was further washed with ethyl acetate (250 ml). Concentration in vacuo followed by purification by flash chromatography (eluant: 8:2 to 1:1 hexane:ethyl acetate) afforded the title compound as a pale yellow solid (1.28 g, 95%).

reactant | 4-chlorophenol | 7.78 mmol, 1 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2,5-difluoronitrobenzene | 5.21 mmol, 829 mg | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 9.34 mmol, 1.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | NaOH | 2.5M, 10 ml | [OH-].[Na+]
product | 2-(4-chlorophenoxy)-4-methyl-1-nitrobenzene | 1.04 g | ClC1=CC=C(OC2=C(C=CC(=C2)C)[N+](=O)[O-])C=C1 | C13H10ClNO3
